US04193999
A. 1,2-Di-O-(n-hexadecyl)-3-O-(2,3-epoxypropyl)-glycerol
A solution of 1,2-di-O-(n-hexadecyl)-3-allyl-glycerol (5.8 g., 10.0 mmoles) and m-chloroperbenzoic acid (1.86 g., 10.8 mmoles) in benzene (50 ml.) was stirred at reflux for 16 hours. The reaction mixture was then cooled, treated with saturated aqueous sodium bisulfite solution (10 ml.) and saturated aqueous sodium bicarbonate solution (50 ml.), and extracted with ether (3×50 ml.). The combined ether extract was washed with water (100 ml.), washed with saturated aqueous sodium chloride solution (100 ml.), dried (MgSO4), filtered and evaporated in vacuo to an oil (4.9 g., 82% yield, olefinic protons absent by n.m.r. analysis), which was purified by silica gel chromatography (elution with benzene:ethyl acetate) (4.2 g., 70% yield, oil-solidified on standing).

reactant | 1,2-di-O-(n-hexadecyl)-3-allyl-glycerol | 10.0 mmoles, 5.8 g | C(CCCCCCCCCCCCCCC)OCC(OCCCCCCCCCCCCCCCC)COCC=C | C38H76O3
reactant | m-chloroperbenzoic acid | 10.8 mmoles, 1.86 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bisulfite | 10 ml | S([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 1,2-Di-O-(n-hexadecyl)-3-O-(2,3-epoxypropyl)-glycerol | 82% yield | C(CCCCCCCCCCCCCCC)OCC(OCCCCCCCCCCCCCCCC)COCC1CO1 | C38H76O4
